US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pyridazine-3-carboxamide
The title compound was prepared in analogy to Example 3-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and pyridazine-3-carboxamide. MS obsd. (ESI+) [(M+H)+] 460, 1H NMR (400 MHz, CD3OD) δ ppm 9.52-9.48 (d, J=8 Hz, 1 H), 8.68 (s, 1 H), 8.62-8.58 (d, J=7.6 Hz, 1 H), 8.10-8.02 (m, 3 H), 7.94 (s, 1 H), 7.88-7.82 (d, J=8 Hz, 1 H), 7.75-7.68 (t, J=7.6 Hz, 2 H), 7.60-7.52 (t, J=7.2 Hz, 1 H), 5.36 (s, 2 H), 4.80-4.55 (m, 2 H), 3.83-3.78 (t, J=2.8 Hz, 2 H), 2.56 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | pyridazine-3-carboxamide | N1=NC(=CC=C1)C(=O)N | C5H5N3O
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]pyridazine-3-carboxamide | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(=O)C=2N=NC=CC2)C)=O | C24H21N5O3S
